US07205295B2
Intermediate 60: Methanesulfonic acid 2-(3,4-difluoro-phenyl)-ethyl ester.
To a solution of 2-(3,4-difluoro-phenyl)-ethanol (1.00 g, 6.33 mmol) in tetrahydrofuran (63.0 mL) at 0° C. was added triethylamine (1.95 mL, 13.9 mmol) followed by methanesulfonyl chloride (0.538 mL, 6.96 mmol). The solution was allowed to warm to room temperature overnight, quenched with water (20 mL), and diluted with ethyl acetate (100 mL). The layers were separated and the aqueous phase was extracted with ethyl acetate (3×25 mL). The combined organic extracts were washed with saturated NaHCO3 (1×20 mL), brine (1×20 mL), dried over MgSO4, filtered, and concentrated to give the title compound. 1H NMR (CDCl3) δ 2.92 (s, 3H), 3.01 (t, J=6.59 Hz, 2H), 4.37–4.40 (m, 2H), 6.94–6.97 (m, 1H), 7.03–7.06 (m, 1H), 7.07–7.15 (m, 1H) ppm. 19F NMR (CDCl3) 8–140.48–, 137.71 ppm.

reactant | 2-(3,4-difluoro-phenyl)-ethanol | 6.33 mmol, 1.00 g | FC=1C=C(C=CC1F)CCO | C8H8F2O
reactant | triethylamine | 13.9 mmol, 1.95 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 6.96 mmol, 0.538 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | tetrahydrofuran | 63.0 mL | O1CCCC1 | C4H8O
product | Methanesulfonic acid 2-(3,4-difluoro-phenyl)-ethyl ester | FC=1C=C(C=CC1F)CCOS(=O)(=O)C | C9H10F2O3S
